US08685974B2
A mixture of 1-(4-chloro-2-thienyl)-3-(dimethylamino)prop-2-en-1-one (24.6 mmol) and hydrazine hydrate (49.2 mmol) in 25 mL ethanol was refluxed for 15 h and then allowed to cool to room temperature. The solvent was evaporated under reduced pressure and dried in vacuum to afford 4.5 g (99% yield) 3-(4-chloro-2-thienyl)-1H-pyrazole which was used in the next step without further purification.

reactant | 1-(4-chloro-2-thienyl)-3-(dimethylamino)prop-2-en-1-one | 24.6 mmol | ClC=1C=C(SC1)C(C=CN(C)C)=O | C9H10ClNOS
reactant | hydrazine hydrate | 49.2 mmol | O.NN
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 3-(4-chloro-2-thienyl)-1H-pyrazole | 4.5 g, 99% yield | ClC=1C=C(SC1)C1=NNC=C1 | C7H5ClN2S
